US07642264B2
3-Sulfamoyl-pyridine-5-boronic acid
Step 3) N-Chlorosuccinimide (0.937 g, 7.01 mmol) was added to a suspension of the above prepared lithium 5-(6-methyl-[1,3,6,2]dioxazaborocan-2-yl)-pyridine-3-sulfinate (2 g, 7.24 mmol) in CH2Cl2 (14 mL) and the mixture was stirred for 2 h at rt. A solution of 25% ammonium hydroxide (1.00 mL, 13.4 mmol) was added and the mixture was stirred again for 2 h at rt, then completely evaporated to give the title compound as an off-white solid (1.28 g, 88%) (according to Bioorg. Med. Chem. 2005, 13, 2305-2312). MS (ISP) 201.4 [(M−H)−].

reactant | N-Chlorosuccinimide | 7.01 mmol, 0.937 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | lithium 5-(6-methyl-[1,3,6,2]dioxazaborocan-2-yl)-pyridine-3-sulfinate | 7.24 mmol, 2 g | CN1CCOB(OCC1)C=1C=C(C=NC1)S(=O)[O-].[Li+]
reactant | ammonium hydroxide | 13.4 mmol, 1.00 mL | [OH-].[NH4+]
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
product | 3-Sulfamoyl-pyridine-5-boronic acid | 1.28 g, 88% | S(N)(=O)(=O)C=1C=NC=C(C1)B(O)O | C5H7BN2O4S
